datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC(C)C1=CC2=CC[C@H]3[C@@](C)(CCC[C@]3(C)C(=O)[O-:10])[C@@H]2CC1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC(C)C1=CC2=CC[C@H]3[C@@](C)(CCC[C@]3(C)C(=O)[O:10][H:20])[C@@H]2CC1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCCC[N+:21]1([H:20])CCCCC1C(=O)Nc1c(C)cccc1C.CCCNc1c2ccccc2[n:10]c2cccc([N+](=O)[O-])c12>>CCCC[N:21]1CCCCC1C(=O)Nc1c(C)cccc1C.CCCNc1c2ccccc2[n+:10]([H:20])c2cccc([N+](=O)[O-])c12 10=20;20,21=21",
"CN(C)C(O)[OH+:21][H:20].Nc1cnc[n:10]c1>>CN(C)C(O)[OH:21].Nc1cnc[n+:10]([H:20])c1 10=20;20,21=21",
"NCCC[NH2+]CCCC[NH2+:21][H:20].O=C(C[NH2:10])c1ccc(O)cc1>>NCCC[NH2+]CCCC[NH2:21].O=C(C[NH2+:10][H:20])c1ccc(O)cc1 10=20;20,21=21",
"CCC(C)(C)[NH+:21](c1ccccc1)[H:20].CC[N:10](CC)CCCC(C)Nc1cc(C)nc2cc(Cl)ccc12>>CCC(C)(C)[NH:21]c1ccccc1.CC[N+:10](CC)(CCCC(C)Nc1cc(C)nc2cc(Cl)ccc12)[H:20] 10=20;20,21=21",
"O=C1C=CC=CC(O)=C1[O:21][H:20].c1nc(NC2CCCCC2)c2c(n1)nc[n-:10]2>>O=C1C=CC=CC(O)=C1[O-:21].c1nc(NC2CCCCC2)c2c(n1)nc[n:10]2[H:20] 10=20;20,21=21",
"CC(C)(C)N[NH:10]C(C)(C)C.CCN[N+:21](C)(C)[H:20]>>CC(C)(C)N[NH+:10](C(C)(C)C)[H:20].CCN[N:21](C)C 10=20;20,21=21",
"CN(C)c1ncnc2c1cn[n-:10]2.Cc1cc(O)n(-c2nc([O-])c(C)c(C)[n+:21]2[H:20])n1>>CN(C)c1ncnc2c1cn[n:10]2[H:20].Cc1cc(O)n(-c2nc([O-])c(C)c(C)[n:21]2)n1 10=20;20,21=21",
"CC[NH+](CC)Cc1cc(Cl)cc(Cl)c1[O:21][H:20].COc1cc(C(C)=O)ccc1[O-:10]>>CC[NH+](CC)Cc1cc(Cl)cc(Cl)c1[O-:21].COc1cc(C(C)=O)ccc1[O:10][H:20] 10=20;20,21=21",
"CC(=O)c1ccc([O-:10])c([N+](=O)[O-])c1.CCCCB(O)[O:21][H:20]>>CC(=O)c1ccc([O:10][H:20])c([N+](=O)[O-])c1.CCCCB(O)[O-:21] 10=20;20,21=21",
"Cn1c[n+:21]([H:20])c2cc(O)ccc21.[O-]c1c(Cl)cc(Cl)cc1C[N:10]1CCOCC1>>Cn1c[n:21]c2cc(O)ccc21.[O-]c1c(Cl)cc(Cl)cc1C[N+:10]1([H:20])CCOCC1 10=20;20,21=21",
"COc1ccc[n:10]c1C=O.ClC1CC2CC[N+:21]1([H:20])CC2>>COc1ccc[n+:10]([H:20])c1C=O.ClC1CC2CC[N:21]1CC2 10=20;20,21=21",
"C1CNCC[NH:10]CCN1.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>C1CNCC[NH+:10]([H:20])CCN1.C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.c1c(CN2CCNCC[NH:10]CC2)n[nH]c1CN1CCNCCNCC1>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.c1c(CN2CCNCC[NH+:10]([H:20])CC2)n[nH]c1CN1CCNCCNCC1 10=20;20,21=21",
"CCCOc1ccccc1C(=O)[O-:10].Nc1nccc2c1[n+:21]([H:20])cn2CCOCP(=O)([O-])[O-]>>CCCOc1ccccc1C(=O)[O:10][H:20].Nc1nccc2c1[n:21]cn2CCOCP(=O)([O-])[O-] 10=20;20,21=21",
"CCOC(=O)c1cc(-c2ccccc2)n[n+:21]([H:20])c1NCC[NH+]1CCOCC1.CC[NH+](CC)CCCCCCNc1c2cc(OC)ccc2[n:10]c2cc(Cl)ccc12>>CCOC(=O)c1cc(-c2ccccc2)n[n:21]c1NCC[NH+]1CCOCC1.CC[NH+](CC)CCCCCCNc1c2cc(OC)ccc2[n+:10]([H:20])c2cc(Cl)ccc12 10=20;20,21=21",
"CCOC(=O)COc1ccc(C(=O)c2ccc([O-])c(C[NH2:10])c2)c(Cl)c1Cl.Cc1cc(Br)cc(C)c1[NH2+:21][H:20]>>CCOC(=O)COc1ccc(C(=O)c2ccc([O-])c(C[NH2+:10][H:20])c2)c(Cl)c1Cl.Cc1cc(Br)cc(C)c1[NH2:21] 10=20;20,21=21",
"CC[N+:21](CC)(NC)[H:20].Oc1ccc(Cl)cc1C[N:10]1CCCC1>>CC[N:21](CC)NC.Oc1ccc(Cl)cc1C[N+:10]1([H:20])CCCC1 10=20;20,21=21",
"CC1=CC(=C2C=CC=CC=C2)C=C(C)C1=[O:10].O=[N+]([O-])c1ccc2c(c1)Cc1cc([O:21][H:20])ccc1-2>>CC1=CC(=C2C=CC=CC=C2)C=C(C)C1=[O+:10][H:20].O=[N+]([O-])c1ccc2c(c1)Cc1cc([O-:21])ccc1-2 10=20;20,21=21",
"COCC[NH+:21](c1cccc(OC)c1)[H:20].Cc1cc(-c2[nH]cc[n:10]2)nn1C>>COCC[NH:21]c1cccc(OC)c1.Cc1cc(-c2[nH]cc[n+:10]2[H:20])nn1C 10=20;20,21=21",
"COCC[NH2+:21][H:20].c1ccc2c(c1)ncc1ccc([O-:10])cc12>>COCC[NH2:21].c1ccc2c(c1)ncc1ccc([O:10][H:20])cc12 10=20;20,21=21",
"C=C(C)C(=O)OCC[NH:10]CC.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C=C(C)C(=O)OCC[NH+:10](CC)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"NCc1nc2ccccc2[n-:10]1.[NH3+]c1ccccc1C(=O)N[NH2+:21][H:20]>>NCc1nc2ccccc2[n:10]1[H:20].[NH3+]c1ccccc1C(=O)N[NH2:21] 10=20;20,21=21",
"CC(=O)[S-:10].Cc1ccc(S(=O)(=O)[NH:21][H:20])cc1C>>CC(=O)[S:10][H:20].Cc1ccc(S(=O)(=O)[NH-:21])cc1C 10=20;20,21=21",
"COc1ccc2c3c1O[C@H]1[C@@H](O)C=C[C@H]4[C@@H](C2)[N:10](C)CC[C@@]341.c1n[nH]c[n+:21]1[H:20]>>COc1ccc2c3c1O[C@H]1[C@@H](O)C=C[C@H]4[C@@H](C2)[N+:10](C)([H:20])CC[C@@]341.c1n[nH]c[n:21]1 10=20;20,21=21",
"COc1ccc(-c2oc(-c3ccccc3)c[n:10]2)cc1.O=C(c1ccnnc1)[O:21][H:20]>>COc1ccc(-c2oc(-c3ccccc3)c[n+:10]2[H:20])cc1.O=C(c1ccnnc1)[O-:21] 10=20;20,21=21",
"CC(C)(C)C(N)=[N+:21](O)[H:20].C[Si](C)(C)c1ccc([NH2:10])cc1>>CC(C)(C)C(N)=[N:21]O.C[Si](C)(C)c1ccc([NH2+:10][H:20])cc1 10=20;20,21=21",
"CC(O)C[N:10](CC(C)O)C(C)C.Cc1n(C)c2c(O)ccc(O)c2[n+:21]1[H:20]>>CC(O)C[N+:10](CC(C)O)(C(C)C)[H:20].Cc1n(C)c2c(O)ccc(O)c2[n:21]1 10=20;20,21=21",
"O=C1C=C(c2ccc([O-:10])cc2)SS1.c1cc2[nH]ncc2cc1[NH2+:21][H:20]>>O=C1C=C(c2ccc([O:10][H:20])cc2)SS1.c1cc2[nH]ncc2cc1[NH2:21] 10=20;20,21=21",
"CC[SH+]C(O)[O-:10].COc1ccc(C(=O)O[C@H]2O[C@@H](C(=O)[O:21][H:20])[C@H](O)[C@@H](O)[C@@H]2O)cc1OC>>CC[SH+]C(O)[O:10][H:20].COc1ccc(C(=O)O[C@H]2O[C@@H](C(=O)[O-:21])[C@H](O)[C@@H](O)[C@@H]2O)cc1OC 10=20;20,21=21",
"Cc1c[nH]c[n:10]1.Nc1cccc([NH2+:21][H:20])c1>>Cc1c[nH]c[n+:10]1[H:20].Nc1cccc([NH2:21])c1 10=20;20,21=21",
"CC(C)c1ccccc1C(=O)[O:21][H:20].[NH3+]CC[N:10]1CCOCC1>>CC(C)c1ccccc1C(=O)[O-:21].[NH3+]CC[N+:10]1([H:20])CCOCC1 10=20;20,21=21",
